US09422235B2
4-(Bicyclo[2.2.1]hept-2-ylamino)-N-(tetrahydro-furan-2-ylmethyl)-2-trifluoromethyl-benzenesulfonamide
Mixture of 4-bromo-N-(tetrahydrofuran-2-ylmethyl)-2-trifluoromethylbenzenesulfonamide (194 mg, 0.50 mmol), aminonorbornane (109 mg, 0.98 mmol), Pd(OAc)2 (28 mg, 0.10 mmol), BINAP (63 mg, 0.10 mmol) and cesium carbonate (310 mg, 1.3 mmol) in 15 ml toluene was relaxed for 6 hours. Toluene was evaporated in vacuum and crude oil was purified twice by Combiflash (PE-THF). Yield 59%

reactant | 4-bromo-N-(tetrahydrofuran-2-ylmethyl)-2-trifluoromethylbenzenesulfonamide | 0.50 mmol, 194 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NCC1OCCC1)C(F)(F)F | C12H13BrF3NO3S
reactant | aminonorbornane | 0.98 mmol, 109 mg | NC12CCC(CC1)C2 | C7H13N
reactant | BINAP | 0.10 mmol, 63 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 1.3 mmol, 310 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.10 mmol, 28 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(Bicyclo[2.2.1]hept-2-ylamino)-N-(tetrahydro-furan-2-ylmethyl)-2-trifluoromethyl-benzenesulfonamide | Yield 59% | C12C(CC(CC1)C2)NC2=CC(=C(C=C2)S(=O)(=O)NCC2OCCC2)C(F)(F)F | C19H25F3N2O3S
